US05605910
A. 4-Benzyl-1-cyano-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione
39 g (0.35 mol) of 1-cyano-cyclohexa-1,3-diene are heated at 100° C. with 65.5 g (0.35 mol) of N-benzyl-maleimide in 700 ml of xylene for one hour and then under reflux for 1 hour. After cooling the crystals are filtered off with suction and recrystallized from xylene.

reactant | 1-cyano-cyclohexa-1,3-diene | 0.35 mol, 39 g | C(#N)C1=CC=CCC1 | C7H7N
reactant | N-benzyl-maleimide | 0.35 mol, 65.5 g | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
solvent | xylene | 700 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Benzyl-1-cyano-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione | C(C1=CC=CC=C1)N1C(C2C3(C=CC(C2C1=O)CC3)C#N)=O | C18H16N2O2
